US08703765B2
3-{(S)-Cyclopropyl-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one
The title compound was prepared from 3-{(S)-cyclopropyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one {prepared in analogy to the intermediate in Example 3 from 3-[(S)-(4-bromo-phenyl)-cyclopropyl-methyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one} and 5-bromo-1-methyl-1H-pyridin-2-one following a procedure analogous to that described in Example 3. LC-MS (Method 1): tR=3.35 min; Mass spectrum (ESI+): m/z=487 [M+H]+.

reactant | 3-{(S)-cyclopropyl-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)[C@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C30H40BNO5
reactant | 3-[(S)-(4-bromo-phenyl)-cyclopropyl-methyl]-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1CC1 | C24H28BrNO3
reactant | 5-bromo-1-methyl-1H-pyridin-2-one | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
product | 3-{(S)-Cyclopropyl-[4-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-phenyl]-methyl}-(S)-6-(2-hydroxy-2-methyl-propyl)-6-phenyl-[1,3]oxazinan-2-one | C1(CC1)[C@H](N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C | C30H34N2O4
